US08633189B2
4-Bromo-2-cyclopentyl-5-(6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamido)phenyl methyl carbonate (812 mg, 1.45 mmol), triethylamine (2.0 mL, 14.52 mmol), prop-2-yn-1-ol (326 mg, 338 μL, 5.81 mmol), PdCl2(PPh3)2 (204 mg, 0.29 mmol), and CuI (69 mg, 0.36 mmol) were combined in DMF (6 mL) and heated at 80° C. for 1 h. The mixture was added to 300 mL of saturated aqueous NaHCO3 and then extracted with dichloromethane (3×70 mL). The organic fractions were combined, dried over MgSO4, and concentrated in vacuo. Purification by silica gel chromatography (0-100% ethyl acetate/hexanes) yielded 2-cyclopentyl-4-(3-hydroxyprop-1-ynyl)-5-(6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamido)phenyl methyl carbonate (410 mg, 53% yield). LC/MS m/z 535.4 [M+H]+.

reactant | 4-Bromo-2-cyclopentyl-5-(6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamido)phenyl methyl carbonate | 1.45 mmol, 812 mg | C(OC1=C(C=C(C(=C1)NC(=O)C1CNC2=C(O1)C=CC(=C2)OC(F)(F)F)Br)C2CCCC2)(OC)=O | C23H22BrF3N2O6
reactant | triethylamine | 14.52 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | prop-2-yn-1-ol | 5.81 mmol, 338 μL, 326 mg | C(C#C)O | C3H4O
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.29 mmol, 204 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.36 mmol, 69 mg | [Cu]I
product | 2-cyclopentyl-4-(3-hydroxyprop-1-ynyl)-5-(6-(trifluoromethoxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxamido)phenyl methyl carbonate | 410 mg, 53% yield | C(OC1=C(C=C(C(=C1)NC(=O)C1CNC2=C(O1)C=CC(=C2)OC(F)(F)F)C#CCO)C2CCCC2)(OC)=O | C26H25F3N2O7
